US08859608B2
(S)-tert-butyl6-(((5-chloropyridin-2-yl)amino)methyl)-5-azaspiro[2.4]heptane-5-carboxylate Intermediate 60, 600 mg, 1.77 mmol) was dissolved in dichloromethane (10 ml) and cooled to 0° C., then trifluoroacetic acid (4 ml) was added. After 1 hour at 0° C. and 3 hours at room temperature the solution was evaporated, the residue re-dissolved in dichloromethane was washed with saturated NaHCO3 aqueous solution. The organic layers were dried (Na2SO4) and concentrated under vacuum. The crude was purified by silica gel column chromatography (CHCl3/MeOH=8/2). (S)—N-(5-azaspiro[2.4]heptan-6-ylmethyl)-5-chloropyridin-2-amine was obtained as light yellow oil (400 mg).

reactant | (S)-tert-butyl6-(((5-chloropyridin-2-yl)amino)methyl)-5-azaspiro[2.4]heptane-5-carboxylate | C(C)(C)(C)OC(=O)N1CC2(CC2)C[C@H]1CNC1=NC=C(C=C1)Cl | C17H24ClN3O2
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)—N-(5-azaspiro[2.4]heptan-6-ylmethyl)-5-chloropyridin-2-amine | C1CC12CN[C@@H](C2)CNC2=NC=C(C=C2)Cl | C12H16ClN3
